US08445118B2
(3) Titanium Cyanocatecholate (Molecular Weight: 314)
A solution of 3,4-dihydroxybenzonitrile (5.00 g, 37.0 mmol) and toluene (45 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 5.25 g (18.5 mmol) of titanium(IV) isopropoxide (TTIP) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (3,4-dihydroxybenzonitrile-titanium complex) was brown in color. The yield amount was 5.80 g (18.5 mmol), and the yield percentage was 100%. 3.14 g of 3,4-dihydroxybenzonitrile-titanium complex was dissolved into 100 mL of ethanol to produce a coating liquid.

reactant | 3,4-dihydroxybenzonitrile | 37.0 mmol, 5.00 g | OC=1C=C(C#N)C=CC1O | C7H5NO2
reactant | titanium(IV) isopropoxide | 18.5 mmol, 5.25 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | Titanium Cyanocatecholate | C(#N)C1=C(C([O-])=CC=C1)[O-].[Ti+4].C(#N)C1=C(C([O-])=CC=C1)[O-] | InChI=1S/2C7H5NO2.Ti/c2*8-4-5-2-1-3-6(9)7(5)10;/h2*1-3,9-10H;/q;;+4/p-4
